US06723722B1
A solution of the resultant 1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone in ethyl acetate (30 ml) and a 10% aqueous solution of sodium carbonate (30 ml) was combined at 0° C. with 6-chloronaphthalene-2-sulfonyl chloride (2.24 g) and stirred at room temperature for 30 minutes, and then the organic phase was separated, washed with brine, dried and concentrated. The residue thus obtained was purified by a column chromatography on a silica gel (hexane:ethyl acetate=1:2) to obtain 1-[1-(tert-Butoxycarbonyl)-4-piperidinylamino]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (3.55 g) as a colorless amorphous material.

reactant | 1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone | C(C)(C)(C)OC(=O)N1CCC(CC1)NN1C(CNCC1)=O | C14H26N4O3
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-chloronaphthalene-2-sulfonyl chloride | 2.24 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(tert-Butoxycarbonyl)-4-piperidinylamino]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 3.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C24H31ClN4O5S
